US06897231B2
C. N-[3-(5-{5-[(Dimethylamino)methyl](1H-1,2,4-triazol-3-yl)}(1H-indazol-3-yl))phenyl]-3,3-dimethylbutanamide
The title compound was prepared according to the procedure described in Example 329 C using N-{3-[5-(ethoxyiminomethyl)(1H-indazol-3-yl)]phenyl}-3,3-dimethylbutanamide hydrochloride (0.360 g, 0.87 mmol), N-amino-2-(dimethylamino)acetamide (0.304 g, 2.60 mmol) and sodium methoxide in methanol (0.398 mL, 4.37 M). The title compound was isolated after purification by preparative HPLC (0.093 g, 25% yield): 1H NMR (CD3OD) δ 8.72 (s, 1H), 8.16 (t, 1H), 8.08 (dt, 1H), 7.75 (dt, 2H), 7.66 (d, 1H), 7.50 (t, 1H), 3.71 (s, 2H), 2.37 (s, 6H), 2.30 (s, 2H), 1.12 (s, 9H); ES-MS (m/z) 432 [M+H]+.

reactant | N-{3-[5-(ethoxyiminomethyl)(1H-indazol-3-yl)]phenyl}-3,3-dimethylbutanamide hydrochloride | 0.87 mmol, 0.360 g | Cl.C(C)ON=CC=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC(CC(C)(C)C)=O
reactant | N-amino-2-(dimethylamino)acetamide | 2.60 mmol, 0.304 g | NNC(CN(C)C)=O | C4H11N3O
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 4.37 M, 0.398 mL | CO | CH4O
product | N-[3-(5-{5-[(Dimethylamino)methyl](1H-1,2,4-triazol-3-yl)}(1H-indazol-3-yl))phenyl]-3,3-dimethylbutanamide | CN(C)CC1=NC(=NN1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC(CC(C)(C)C)=O | C24H29N7O
